US06313122B1
C. 5-(tert-Butyldimethylsilyloxy)-2-phthalimidoaniline
A suspension of 5-(tert-butyldimethylsilyloxy)-2-phthalimido-1-nitrobenzene (5.00 g, 12.5 mmol) and 10% palladium-on-carbon (2.5 g) in ethyl acetate (60 mL) was stirred under 1 atm of hydrogen for 16 h. The mixture was filtered through a pad of diatomaceous earth and concentrated in vacuo to yield 4.1 g (89%) of the title compound.

reactant | 5-(tert-butyldimethylsilyloxy)-2-phthalimido-1-nitrobenzene | 12.5 mmol, 5.00 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(C1)[N+](=O)[O-])N1C(C=2C(C1=O)=CC=CC2)=O | C20H22N2O5Si
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-carbon | 2.5 g | [Pd] | Pd
product | 5-(tert-Butyldimethylsilyloxy)-2-phthalimidoaniline | 4.1 g, 89% | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(N)C1)N1C(C=2C(C1=O)=CC=CC2)=O | C20H24N2O3Si
